US06479536B1
(+)-4-Fluoro-N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide
By using (+)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine and 4-fluorobenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 91%. Melting point: 251-253° C. (Ethyl acetate-hexane) [α]D=+74.4° (c=0.501, methanol)

reactant | (+)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N)C)(C)C | C22H29NO
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | CO | CH4O
product | (+)-4-Fluoro-N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide | Yield: 91% | FC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C(C)C)C2C)C)C)C=C1 | C29H32FNO2
